Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][CH2:2][CH3:3].[OH:4][C:5]1([CH2:6][NH:7][CH2:8][CH2:9][O:10][c:11]2[cH:12][cH:13][c:14]([C:15]#[C:16][c:17]3[cH:18][cH:19][c:20](-[c:21]4[cH:22][cH:23][c:24]([Cl:25])[cH:26][cH:27]4)[cH:28][n:29]3)[cH:30][cH:31]2)[CH2:32][CH2:33]1>>[CH2:1]([CH2:2][CH3:3])[N:7]([CH2:6][C:5]1([OH:4])[CH2:32][CH2:33]1)[CH2:8][CH2:9][O:10][c:11]1[cH:12][cH:13][c:14]([C:15]#[C:16][c:17]2[cH:18][cH:19][c:20](-[c:21]3[cH:22][cH:23][c:24]([Cl:25])[cH:26][cH:27]3)[cH:28][n:29]2)[cH:30][cH:31]1,[OH:4][C:5]1([CH2:6][NH:7][CH2:8][CH2:9][O:10][c:11]2[cH:12][cH:13][c:14]([C:15]#[C:16][c:17]3[cH:18][cH:19][c:20](-[c:21]4[cH:22][cH:23][c:24]([Cl:25])[cH:26][cH:27]4)[cH:28][n:29]3)[cH:30][cH:31]2)[CH2:32][CH2:33]1.[Br:101][CH2:1][CH2:2][CH3:3]>>[CH2:1]([CH2:2][CH3:3])[N:7]([CH2:6][C:5]1([OH:4])[CH2:32][CH2:33]1)[CH2:8][CH2:9][O:10][c:11]1[cH:12][cH:13][c:14]([C:15]#[C:16][c:17]2[cH:18][cH:19][c:20](-[c:21]3[cH:22][cH:23][c:24]([Cl:25])[cH:26][cH:27]3)[cH:28][n:29]2)[cH:30][cH:31]1,SN2,"[(7, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[CH3:3][N:4]1[CH2:5][CH2:6][CH:7]([O:8][C:9](=[O:10])[C:11]([CH3:12])([c:13]2[cH:14][cH:15][c:16]([C:17]#[N:18])[cH:19][cH:20]2)[CH:21]2[CH2:22][CH2:23][CH2:24][CH2:25]2)[CH2:26][CH2:27]1>>[CH3:1][N+:4]1([CH3:3])[CH2:5][CH2:6][CH:7]([O:8][C:9](=[O:10])[C:11]([CH3:12])([c:13]2[cH:14][cH:15][c:16]([C:17]#[N:18])[cH:19][cH:20]2)[CH:21]2[CH2:22][CH2:23][CH2:24][CH2:25]2)[CH2:26][CH2:27]1,[CH3:3][N:4]1[CH2:5][CH2:6][CH:7]([O:8][C:9](=[O:10])[C:11]([CH3:12])([c:13]2[cH:14][cH:15][c:16]([C:17]#[N:18])[cH:19][cH:20]2)[CH:21]2[CH2:22][CH2:23][CH2:24][CH2:25]2)[CH2:26][CH2:27]1.[I:101][CH3:1]>>[CH3:1][N+:4]1([CH3:3])[CH2:5][CH2:6][CH:7]([O:8][C:9](=[O:10])[C:11]([CH3:12])([c:13]2[cH:14][cH:15][c:16]([C:17]#[N:18])[cH:19][cH:20]2)[CH:21]2[CH2:22][CH2:23][CH2:24][CH2:25]2)[CH2:26][CH2:27]1,SN2,"[(4, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1.[SH:9][c:10]1[cH:11][cH:12][c:13]([Cl:14])[cH:15][cH:16]1>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1)[S:9][c:10]1[cH:11][cH:12][c:13]([Cl:14])[cH:15][cH:16]1,[Cl:101][CH2:1][c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1.[SH:9][c:10]1[cH:11][cH:12][c:13]([Cl:14])[cH:15][cH:16]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[c:3]([CH3:4])[o:5][c:6](=[O:7])[o:8]1)[S:9][c:10]1[cH:11][cH:12][c:13]([Cl:14])[cH:15][cH:16]1,SN2_alcohol(thiol),"[(301, 9.1), ([9.1, 9], 9), (9, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][c:2]1[n:3][n:4][c:5]([CH2:6][CH:7]2[CH2:8][CH2:9][CH:10]([c:11]3[n:12][cH:13][c:14](-[c:15]4[cH:16][cH:17][c:18]([NH2:19])[cH:20][cH:21]4)[s:22]3)[CH2:23][CH2:24]2)[s:25]1.[O:26]=[C:27]=[N:28][c:29]1[cH:30][c:31]([F:32])[c:33]([F:34])[cH:35][c:36]1[F:37]>>[CH3:1][c:2]1[n:3][n:4][c:5]([CH2:6][CH:7]2[CH2:8][CH2:9][CH:10]([c:11]3[n:12][cH:13][c:14](-[c:15]4[cH:16][cH:17][c:18]([NH:19][C:27](=[O:26])[NH:28][c:29]5[cH:30][c:31]([F:32])[c:33]([F:34])[cH:35][c:36]5[F:37])[cH:20][cH:21]4)[s:22]3)[CH2:23][CH2:24]2)[s:25]1,[CH3:1][c:2]1[n:3][n:4][c:5]([CH2:6][CH:7]2[CH2:8][CH2:9][CH:10]([c:11]3[n:12][cH:13][c:14](-[c:15]4[cH:16][cH:17][c:18]([NH2:19])[cH:20][cH:21]4)[s:22]3)[CH2:23][CH2:24]2)[s:25]1.[O:26]=[C:27]=[N:28][c:29]1[cH:30][c:31]([F:32])[c:33]([F:34])[cH:35][c:36]1[F:37]>>[CH3:1][c:2]1[n:3][n:4][c:5]([CH2:6][CH:7]2[CH2:8][CH2:9][CH:10]([c:11]3[n:12][cH:13][c:14](-[c:15]4[cH:16][cH:17][c:18]([NH:19][C:27](=[O:26])[NH:28][c:29]5[cH:30][c:31]([F:32])[c:33]([F:34])[cH:35][c:36]5[F:37])[cH:20][cH:21]4)[s:22]3)[CH2:23][CH2:24]2)[s:25]1,nucleophilic_attack_to_iso(thio)cyanate,"[(19, 27), ([27, 26], 26), (26, 19.1), ([19.1, 19], 19), (26, [26, 27]), ([27, 28], 28), (28, 26.1), ([26.1, 26], 26)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
